US07060827B2
In a manner similar to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine and 3,5-dimethyl-4-isoxazolamine were reacted to yield N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3,5-dimethylisoxazol-4-yl)-2,4-pyrimidinediamine. LCMS: ret. time: 18.89 min.; purity: 98%; MS (m/e): 358 (MH+).

reactant | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC1=CC(=CC=C1)O | C18H15FN4O3
reactant | 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)F | C12H9ClFN3O2
reactant | 3,5-dimethyl-4-isoxazolamine | CC1=NOC(=C1N)C | C5H8N2O
product | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3,5-dimethylisoxazol-4-yl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC=1C(=NOC1C)C | C17H16FN5O3
